US07666888B2
5-Butylisoxazole-4-carboxylic acid
Methyl 3-oxoheptanoate (0.16 g, 1 mmol) and 1,1-dimethoxy-N,N-dimethylmethanamine (0.12 g, 1 mmol) was mixed and heated for 1 h at 60° C. The bright yellow oil was dissolved in methanol (2 mL) and water (1 mL) whereby and hydroxylamine hydrochloride (0.07 g, 1 mmol) was added, resulting in a pH of ca 5. The reaction was heated at 60° C. for 3 days. The solvents were evaporated and the residue refluxed in acetic acid: conc. HCL (1+1 mL) for 4 h. The solvents were evaporated to dryness and the residue dissolved in water at ca pH 10, filtered and acidified with HCl and extracted to DCM, dried (Na2SO4) and evaporated to yield the title compound as a light brown solid. 1H NMR (400 MHz, CHLOROFORM-D) δ ppm 0.93 (t, J=7.32 Hz, 3 H) 1.33-1.45 (m, 2 H) 1.69-1.78 (m, 2 H) 3.12 (t, J=7.57 Hz, 2 H) 8.50 (s, 1H)

reactant | Methyl 3-oxoheptanoate | 1 mmol, 0.16 g | O=C(CC(=O)OC)CCCC | C8H14O3
reactant | 1,1-dimethoxy-N,N-dimethylmethanamine | 1 mmol, 0.12 g | COC(N(C)C)OC | C5H13NO2
reactant | water | 1 mL | O | H2O
reactant | hydroxylamine hydrochloride | 1 mmol, 0.07 g | Cl.NO
solvent | methanol | 2 mL | CO | CH4O
product | 5-Butylisoxazole-4-carboxylic acid | C(CCC)C1=C(C=NO1)C(=O)O | C8H11NO3
